US07015236B2
3-Cyano-4-trifluoromethylpyridine (Compound VIIb, Step F)
3-[(4,4,4-Trifluoro-3-oxo-1-butenyl)amino]-2-propenenitrile (a mixture of IIa and IIb; 1.90 g, 10 mmol) was dissolved in methanol (20 ml), and potassium carbonate (2.10 g, 15 mmol) was added. The mixture was heated under reflux for 2 hours. The reaction solution was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (a eluting solvent: hexane/ethyl acetate=3/1) to obtain 653 mg (yield 32.7%) of the title compound.

reactant | 3-[(4,4,4-Trifluoro-3-oxo-1-butenyl)amino]-2-propenenitrile | FC(C(C=CNC=CC#N)=O)(F)F | C7H5F3N2O
reactant | potassium carbonate | 15 mmol, 2.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methanol | 20 ml | CO | CH4O
product | 3-Cyano-4-trifluoromethylpyridine | 653 mg, yield 32.7% | C(#N)C=1C=NC=CC1C(F)(F)F | C7H3F3N2
